US05886008
N. 5-(5,6-Dichloro-2-nitrophenylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and 1,2,3-trichloronitrobenzene were used. Sodium carbonate was used as base, N,N-dimethylformamide was used as solvent, and the reaction was heated at 125° C. for 3 hours. Column chromatography afforded the title compound (60%) as a red solid: Rf =0.4 in 9:1:0.1 [methylene chloride/methanol/ammonium hydroxide]; 1H NMR (CDCl3) δ 8.59 (br s, NH), 8.36 (br s, NH), 7.96 (d, J=9.1 Hz, 1H), 7.23 (d, J=8.6 Hz, 1H), 7.09 (s, 1H), 7.07 (d, J=9.1 Hz, 1H), 6.99 (d, J=1.9 Hz, 1H), 6.81 (dd, J=8.6 and 2.1 Hz, 1H), 3.15-3.05 (m, 2H), 2.54 (dd, J=13.8 and 9.6 Hz, 1H), 2.46-2.33 (m, 1H), 2.40 (s, 3H), 2.22 (dd, J=17.4 and 9.3 Hz, 1H), 1.84-1.48 (m, 4H); FAB HRMS calculated for [C20H20Cl2N4O2.H] 419.1044, found 419.1046.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 1,2,3-trichloronitrobenzene | ClC1=C(C(=C(C=C1)[N+](=O)[O-])Cl)Cl | C6H2Cl3NO2
reactant | Sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(5,6-Dichloro-2-nitrophenylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 60% | ClC=1C=CC(=C(C1Cl)NC=1C=C2C(=CNC2=CC1)CC1N(CCC1)C)[N+](=O)[O-] | C20H20Cl2N4O2
